Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Duricef / Sulfa (Sulfonamide Antibiotics) / fish derived
 
Attending: ___.
 
Chief Complaint:
Elective chemotherapy
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
Ms. ___ is a ___ year old female with left tibia osteosarcoma,
seizure disorder and PE on lovenox who presents for C3 of
Adriamycin/cisplatin.

She was recently admitted at ___ from ___ for cycle 2
which was tolerated well. She was seen by orthopedic oncology 
due
to her recent reconstructive surgery performed after her
resection (___). She was advanced to weight bearing as
tolerated with ___. 

Since discharge, the patient has been doing well. She felt like
she was having chills 2 weeks ago but is now feeling better. She
has no headaches or vision changes. No chest pain or dyspnea. No
n/v/d. No constipation. Notes stable pain in her RLE. 

 
Past Medical History:
-Left tibia osteosarcoma s/p Wide local resection of Left tibia
osteosarcoma, endoprosthetic reconstruction, local gastrocnemius
flap coverage and split thickness skin grafting
- s/p C1 of Adriamycin/cisplatin (___)
-s/p C2 of Adriamycin/cisplatin ___
-Cervical cancer s/p cryotherapy ___ yrs ago
-Menorrhagia (ceased while on medroxyprogesterone)
-Pseudotumor cerebri 
-Restricted vision 
-Right parietal AVM s/p partial embolization ___
     - planned staged embolization. 50% of AVM was embolized
___. Stage II scheduled ___ was aborted due to concern
that additional embolization had high risk of occluding eloquent
area
     - Received CyberKnife SRS ___ cGy)     
     - Embolization ___
-Sick sinus syndrome, status post pacemaker placement
-Pulmonary embolism in ___ per patient. Found to have Factor V
Leiden, now on lovenox       
-Seizure disorder     
-Spinal fusion L5-S1, ___
-Anxiety
-Asthma

 
Social History:
___
Family History:
Father died of bone cancer ___ years ago with diagnosis unknown to 

pt.
 
Physical Exam:
ADMISSION
T 98.0 PO BP 100/71 HR 78 R 18 SpO2 97 Ra 
GENERAL:  Tired, NAD
HEENT: dry membranes. No lesions
EYES:  anicteric, perrl
NECK:  supple
RESP:  CTAB, no increased WOB, no wheezing, rhonchi or crackles
___:  RRR, no MRG
GI:  soft, NTND no HSM
EXT:  warm, no edema. RLE with well healed midline surgical
incision in brace
SKIN:  warm, dry
NEURO:  CN II-XII intact
ACCESS:  R POC not accessed

DISCHARGE
T 98.2 BP 127/76 HR 80 R 18 SpO2 93 Ra 
GENERAL:  Tired, NAD
HEENT: dry membranes. No lesions
EYES:  anicteric, perrl
NECK:  supple
RESP:  CTAB, no increased WOB, no wheezing, rhonchi or crackles
___:  RRR, no MRG
GI:  soft, NTND no HSM
EXT:  warm, no edema. RLE with well healed midline surgical
incision in brace
SKIN:  warm, dry
NEURO:  CN II-XII intact
PSYCH: Flat affect
ACCESS:  R POC c/d/i
 
Pertinent Results:
ADMISSION

___ 10:50AM BLOOD WBC-10.8* RBC-3.19* Hgb-9.0* Hct-29.5* 
MCV-93 MCH-28.2 MCHC-30.5* RDW-26.5* RDWSD-87.1* Plt ___
___ 10:50AM BLOOD ___ PTT-41.8* ___
___ 10:50AM BLOOD Glucose-124* UreaN-9 Creat-0.8 Na-143 
K-4.1 Cl-107 HCO3-23 AnGap-13
___ 10:50AM BLOOD ALT-8 AST-9 AlkPhos-94 TotBili-<0.2
___ 10:50AM BLOOD Calcium-9.5 Phos-4.1 Mg-2.0

DISCHARGE
___ 04:37AM BLOOD WBC-7.6 RBC-2.86* Hgb-8.0* Hct-27.0* 
MCV-94 MCH-28.0 MCHC-29.6* RDW-26.7* RDWSD-90.4* Plt ___
___ 04:37AM BLOOD Glucose-105* UreaN-11 Creat-0.9 Na-140 
K-4.7 Cl-108 HCO3-20* AnGap-12
___ 04:37AM BLOOD ALT-8 AST-10 AlkPhos-67 TotBili-<0.2
___ 04:37AM BLOOD Calcium-8.1* Phos-3.2 Mg-1.___ with left tibia osteosarcoma s/p resection and 
reconstruction, seizure disorder and PE on lovenox who presented 
for C2 of Adriamycin/cisplatin.

#LEFT TIBIA OSTEOSARCOMA
#ENCOUNTER FOR CHEMOTHERAPY:
Patient received C3 of Adriamycin/cisplatin per OMS protocol 
which was tolerated well. Patient instructed to self inject 
neupogen 24hrs after chemotherapy finished daily until seen in 
follow up with her oncologist.. Her outpatient oncologist will 
arrange for an outpatient TTE prior to her next cycle. She was 
seen by orthopedic oncology while in house who adjusted ___ 
to ___ degrees and recommended she continue to work with ___. 
Patient allowed to weight bear as tolerated

#MALIGNANCY ASSOCIATED PAIN: Stable
-cont home oxycontin with oxycodone for breakthrough

#PULMONARY EMBOLISM
#FACTOR V LEIDEN:
PE in ___ per patient report.
-cont lovenox BID

#ANXIETY: Patient appears sad with flat affect this admission, 
stating she has been trying to cope with her current illness. 
She was seen by social work while in ___.

-cont home amitriptyline, klonopin, escitalopram, gabapentin and
trazadone

#SEIZURE DISORDER
#AVM:
s/p embolization. Stable
-cont keppra/topamax

#HISTORY OF MENORRHAGIA: due to anticoagulation which resolved 
with medroxyprogesterone. Stable while in house
-cont medroxyprogesterone

#ASTHMA:
Substituted fluticasone-salmeterol for symbicort
-cont montelukast
-albuterol PRN

#GERD:
-cont famotidine

#MALNUTRITION: Noted decreased appetitie. Getting nutrition 
shake
supplements. Discussed appetite stimulant with patient and she
declined.

#BILLING: >30 minutes were spent preparing paperwork and 
coordinating care with outpatient providers

TRANSITIONAL ISSUES:

Continue to take neupogen q24 starting evening of ___ until 
told to stop by patient's oncologist
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Filgrastim-sndz 480 mcg SC Q24H 
2. Ondansetron ODT 8 mg PO Q8H:PRN Nausea/Vomiting - First Line 
3. Prochlorperazine 10 mg PO Q6H:PRN Nausea/Vomiting - Second 
Line 
4. Symbicort (budesonide-formoterol) 80-4.5 mcg/actuation 
inhalation BID 
5. TraZODone 50 mg PO QHS 
6. Topiramate (Topamax) 150 mg PO BID 
7. OxyCODONE SR (OxyconTIN) 10 mg PO Q12H 
8. OxyCODONE (Immediate Release) 15 mg PO Q4H:PRN Pain - 
Moderate 
9. Montelukast 10 mg PO DAILY 
10. Milk of Magnesia 30 mL PO Q6H:PRN Constipation - Second Line 

11. MedroxyPROGESTERone Acetate 20 mg PO BID 
12. LevETIRAcetam 1000 mg PO BID 
13. Gabapentin 300 mg PO BID 
14. Famotidine 20 mg PO BID 
15. Escitalopram Oxalate 10 mg PO DAILY 
16. Enoxaparin Sodium 130 mg SC Q12H 
17. Cyclobenzaprine 5 mg PO TID:PRN muscle spasms 
18. Cyanocobalamin ___ mcg PO DAILY 
19. ClonazePAM 0.5 mg PO BID 
20. Bisacodyl 10 mg PO DAILY:PRN Constipation - Second Line 
21. Amitriptyline 25 mg PO TID 
22. Albuterol Inhaler 2 PUFF IH Q6H:PRN Asthma 
23. Acetaminophen 1000 mg PO Q8H 

 
Discharge Medications:
1.  Acetaminophen 1000 mg PO Q8H  
2.  Albuterol Inhaler 2 PUFF IH Q6H:PRN Asthma  
3.  Amitriptyline 25 mg PO TID  
4.  Bisacodyl 10 mg PO DAILY:PRN Constipation - Second Line  
5.  ClonazePAM 0.5 mg PO BID  
6.  Cyanocobalamin ___ mcg PO DAILY  
7.  Cyclobenzaprine 5 mg PO TID:PRN muscle spasms  
8.  Enoxaparin Sodium 130 mg SC Q12H  
9.  Escitalopram Oxalate 10 mg PO DAILY  
10.  Famotidine 20 mg PO BID  
11.  Filgrastim-sndz 480 mcg SC Q24H  
12.  Gabapentin 300 mg PO BID  
13.  LevETIRAcetam 1000 mg PO BID  
14.  MedroxyPROGESTERone Acetate 20 mg PO BID  
15.  Milk of Magnesia 30 mL PO Q6H:PRN Constipation - Second 
Line  
16.  Montelukast 10 mg PO DAILY  
17.  Ondansetron ODT 8 mg PO Q8H:PRN Nausea/Vomiting - First 
Line  
18.  OxyCODONE (Immediate Release) 15 mg PO Q4H:PRN Pain - 
Moderate  
19.  OxyCODONE SR (OxyconTIN) 10 mg PO Q12H  
20.  Prochlorperazine 10 mg PO Q6H:PRN Nausea/Vomiting - Second 
Line  
21.  Symbicort (budesonide-formoterol) 80-4.5 mcg/actuation 
inhalation BID  
22.  Topiramate (Topamax) 150 mg PO BID  
23.  TraZODone 50 mg PO QHS  
24.Scalp Prosthesis
Scalp Prosthesis
Quantity: 1

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
SARCOMA
encounter for elective chemotherapy

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Out of Bed with assistance to chair or 
wheelchair.

 
Discharge Instructions:
Dear ___

___ were hospitalized for chemotherapy, which ___ tolerated well 
apart from nausea. We recommend:
1) ___ take Zofran and Compazine as needed after discharge to 
keep your nausea under control
2) ___ should start neupogen injections tonight ___ around 5 
pm) and continue to take them every 24 hours until ___ see Dr 
___ in follow up.
3) Your foley can be taken out tomorrow (___) at 5 pm when 
your chemotherapy precautions are complete. 
4) ___ should see Dr ___ in follow up in the next ___ days. 
The office is working to make an appointment. Please call the 
office if ___ do not hear about an appointment. 

It was a pleasure taking care of ___
Your ___ Care Team
 
Followup Instructions:
___